US04642308
The procedure is similar to that described in Example 4, but starting with 2-amino-7-chloro-1,8-naphthyridine (17.95 g), 2,6-dimethylphenol (48.6 g) and potassium hydroxide pellets (13.2 g; 85% purity). After treatment with caustic soda and washing, the product produced (24.8 g; m.p. 204° C.) is purified by chromatography on a column 45 mm in diameter containing silica (360 g; 0.040-0.063 mm), eluting with pure methylene chloride and collecting 100-cc fractions. After concentration to dryness of fractions 1 to 48 at 40° C. under reduced pressure (4 kPa), 2-amino-7-(2,6-dimethylphenoxy)-1,8 naphthyridine (21.2 g) is produced, m.p. 218° C.

reactant | 2-amino-7-chloro-1,8-naphthyridine | 17.95 g | NC1=NC2=NC(=CC=C2C=C1)Cl | C8H6ClN3
reactant | 2,6-dimethylphenol | 48.6 g | CC1=C(C(=CC=C1)C)O | C8H10O
reactant | potassium hydroxide | [OH-].[K+]
product | 2-amino-7-(2,6-dimethylphenoxy)-1,8 naphthyridine | 21.2 g | NC1=NC2=NC(=CC=C2C=C1)OC1=C(C=CC=C1C)C | C16H15N3O
